US04397856
Using the procedure of Step A of Example 18, 2-amino-3-trifluoromethyl-benzoic acid and difluoroacetic acid anhydride were reacted to obtain 2-(difluoromethyl)-8-trifluoromethyl-4H-3,1-benzoxazin-4-one melting at 82° C. which was reacted with N-(2-thiazolyl)-acetamide by the procedure of Step B of Example 18 to obtain 2-(difluoroacetylamino)-β-oxo-3-trifluoromethyl-N-(2-thiazolyl)-benzene-propanamide melting at 206° C. The latter compound was reacted by the procedure of Step C of Example 18 to obtain 2-(difluoromethyl)-4-hydroxy-N-(2-thiazolyl)-8-trifluoromethyl-3-quinoline-carboxamide melting at 226° C.

reactant | 2-amino-3-trifluoromethyl-benzoic acid | NC1=C(C(=O)O)C=CC=C1C(F)(F)F | C8H6F3NO2
reactant | difluoroacetic acid anhydride | FC(C(=O)OC(C(F)F)=O)F | C4H2F4O3
product | 2-(difluoromethyl)-8-trifluoromethyl-4H-3,1-benzoxazin-4-one | FC(C1=NC2=C(C(O1)=O)C=CC=C2C(F)(F)F)F | C10H4F5NO2
